US07842694B2
3-{[5-(Azetidin-1-ylcarbonyl)-3-chloropyridin-2-yl]oxy}-5-{[(1S)-2-hydroxy-1-methylethyl]oxy}-N-[1-(1-methylethyl)-1H-pyrazol-3-yl]benzamide
3-{[5-(Azetidin-1-ylcarbonyl)-3-chloropyridin-2-yl]oxy}-5-[((1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-methylethyl)oxy]-N-[1-(1-methylethyl)-1H-pyrazol-3-yl]benzamide (142 mg, 0.23 mmol) in methanol (2 mL) was stirred with 3.5M hydrochloric acid (0.2 mL, 0.68 mmol) for 1 hour. The solution was neutralised with saturated sodium bicarbonate solution and the organic solvent was removed under reduced pressure. The residue was extracted with ethyl acetate (3×10 mL), dried (MgSO4), filtered and the solvent removed under reduced pressure. The residue was purified by chromatography on silica, eluting with 75-100% ethyl acetate in hexane, to give the required product as a white foam (99 mg).

reactant | 3-{[5-(Azetidin-1-ylcarbonyl)-3-chloropyridin-2-yl]oxy}-5-[((1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-methylethyl)oxy]-N-[1-(1-methylethyl)-1H-pyrazol-3-yl]benzamide | 0.23 mmol, 142 mg | N1(CCC1)C(=O)C=1C=C(C(=NC1)OC=1C=C(C(=O)NC2=NN(C=C2)C(C)C)C=C(C1)O[C@H](CO[Si](C)(C)C(C)(C)C)C)Cl | C31H42ClN5O5Si
reactant | hydrochloric acid | 0.68 mmol, 3.5M, 0.2 mL | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 2 mL | CO | CH4O
product | 3-{[5-(Azetidin-1-ylcarbonyl)-3-chloropyridin-2-yl]oxy}-5-{[(1S)-2-hydroxy-1-methylethyl]oxy}-N-[1-(1-methylethyl)-1H-pyrazol-3-yl]benzamide | 99 mg | N1(CCC1)C(=O)C=1C=C(C(=NC1)OC=1C=C(C(=O)NC2=NN(C=C2)C(C)C)C=C(C1)O[C@H](CO)C)Cl | C25H28ClN5O5
